US04377695
8-(3-Benzyl-2-oxo-benzimidazolin-1-yl)-caprylic acid
The product is produced as described in example 22 from 4.3 g. of 8-(3-benzyl-2-oxo-benzimidazolin-1-yl)-caprylic acid methyl ester and 0.5 g. of sodium hydroxide.

reactant | 8-(3-benzyl-2-oxo-benzimidazolin-1-yl)-caprylic acid methyl ester | COC(CCCCCCCN1C(N(C2=C1C=CC=C2)CC2=CC=CC=C2)=O)=O | C23H28N2O3
reactant | sodium hydroxide | [OH-].[Na+]
product | 8-(3-Benzyl-2-oxo-benzimidazolin-1-yl)-caprylic acid | C(C1=CC=CC=C1)N1C(N(C2=C1C=CC=C2)CCCCCCCC(=O)O)=O | C22H26N2O3
